US05110966
Step b: 3-Methyl-l-nonyn-3-ol
Dissolve 1-trimethylsilyl-3-methyl-l-nonyn-3-ol (l.94g, 9.13 mmol) in tetrahydrofuran (11 mL) and place under an argon atmosphere. Add, by dropwise addition, tetra-n-butylammonium fluoride (11 mL of a 1M solution in tetrahydrofuran, 11 mmol). Stir for 1 hour at room temperature and partition between methylene chloride and water. Separate the organic phase, wash with saturated aqueous sodium chloride, dry (MgSO4), filter and evaporate the solvent in vacuo to give the title compound.

reactant | 1-trimethylsilyl-3-methyl-l-nonyn-3-ol | 9.13 mmol | C[Si](C#CC(CCCCCC)(O)C)(C)C | C13H26OSi
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 11 mL | O1CCCC1 | C4H8O
product | 3-Methyl-l-nonyn-3-ol | CC(C#C)(CCCCCC)O | C10H18O
